US05300524
To a solution of benzenesulphinic acid (8.68 g, 0.061 M) in DCM (120 ml) containing a suspension of CaCl2 (1.0 g) at room temperature was added a solution of 2-(3,4,dimethoxybenzyl)-5-methoxytetrahydrofuran (7.0 g, 0.029 M) in CH2Cl2 (80 ml). The mixture was stirred at room temperature for 4 h, quenched by washing with water (2×50 ml), dried (Na2SO4) and evaporated. Column chromatography (flash silica gel, hexane:ethyl acetate (3:2)) provided the product (Rf 0.3) as a clear oil which was crystallised from ethyl acetate/hexane to give 2-benzenesulphonyl-5-(3,4-dimethoxyphenyl)tetrahydrofuran (3.5 g, 35%).

reactant | benzenesulphinic acid | 0.061 M, 8.68 g | C1(=CC=CC=C1)S(=O)O | C6H6O2S
reactant | CaCl2 | 1.0 g | [Cl-].[Cl-].[Ca+2]
reactant | 2-(3,4,dimethoxybenzyl)-5-methoxytetrahydrofuran | 0.029 M, 7.0 g | COC=1C=C(CC2OC(CC2)OC)C=CC1OC | C14H20O4
solvent | DCM | 120 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-benzenesulphonyl-5-(3,4-dimethoxyphenyl)tetrahydrofuran | 3.5 g, 35% | C1(=CC=CC=C1)S(=O)(=O)C1OC(CC1)C1=CC(=C(C=C1)OC)OC | C18H20O5S
